US07772253B2
N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-3,5-dimethoxy-benzamide
The title compound (24 mg, 56%) was prepared analogously to example 7 by coupling of 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine with 3,5-dimethoxybenzoyl chloride. MS: 433.5 (MH+).

reactant | 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
reactant | 3,5-dimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1)OC | C9H9ClO3
product | N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-3,5-dimethoxy-benzamide | 24 mg, 56% | ClC1=C(C=C(CN2CCC(CC2)NC(C2=CC(=CC(=C2)OC)OC)=O)C=C1)OCC | C23H29ClN2O4
